US06888032B2
The general procedure in example 39 was followed. 3-bromoiodobenzene (283 mg, 1.0 mmol), thiophenol (103 μL, 1.0 mmol), CuI (10 mg, 0.05 mmol), K2CO3 (276 mg, 2.0 mmol), ethylene glycol (111 μL, 2.0 mmol) and 2-propanol (1.0 μL) were used to obtain the 3-bromophenyl phenyl sulfide (240 mg, 91% yield) as colorless liquid. Column chromatography solvent (hexane). Rf=0.6 (hexane). 1H NMR (CDCl3, 300 MHz) δ 7.11-7.22 (m, 2 H), 7.28-7.40 (m, 7 H). 13C NMR (CDCl3, 75 MHz) δ 139.2, 134.1, 132.5, 132.4, 130.6, 129.8, 129.7, 128.6, 128.2, 123.2. MS (EI) m/z (relative intensity) 266 (40), 264 (40).

reactant | 3-bromoiodobenzene | 1.0 mmol, 283 mg | BrC=1C=C(C=CC1)I | C6H4BrI
reactant | thiophenol | 1.0 mmol, 103 μL | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylene glycol | 2.0 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
solvent | 2-propanol | 1.0 μL | CC(C)O | C3H8O
product | 3-bromophenyl phenyl sulfide | 240 mg, 91% yield | C1(=CC=CC=C1)SC1=CC(=CC=C1)Br | C12H9BrS
